US06818423B2
Synthesis of racemic (R/S)-2-hydroxy-4-phenylthiobutyronitrile
9.01 g (50 mmol) of 4-phenylthio-2-butanone were dissolved in 30 ml of MTBE and treated with 1.0 g of ion exchanger Amberlyst A-21. After this, 9.8 ml (250 mmol) of HCN were added with stirring and the mixture was stirred at room temperature for 2 hours. The ion exchanger was filtered off and 0.05 g of citric acid was added to the solution. The solvent and HCN were stripped off in vacuo at 40° C. on a rotary evaporator. 9.5 g of (R/S)-2-hydroxy-4-phenylthiobutyronitrile (91.7% of theory) were found.

reactant | 4-phenylthio-2-butanone | 50 mmol, 9.01 g | C1(=CC=CC=C1)SCCC(C)=O | C10H12OS
reactant | HCN | 250 mmol, 9.8 ml | C#N | CHN
solvent | MTBE | 30 ml | CC(C)(C)OC | C5H12O
product | racemic (R/S)-2-hydroxy-4-phenylthiobutyronitrile | OC(C#N)CCSC1=CC=CC=C1 | C10H11NOS
